US08114868B2
A solution of 2-fluoro-N-methoxy-N-methylbenzamide (16 g, 87.4 mmol) in THF (150 mL) was cooled to −78° C. Vinylmagnesium bromide (120 mL, 120 mmol) was slowly added, and the mixture stirred at −78° C. for 10 min, slowly warmed to rt, and stirred for another 3 h. The reaction mixture was quenched with 1 N aq HCl (100 mL) at 0° C. The aqueous layer was extracted with EtOAc (100 mL). The combined organic phase was washed with brine (50 mL), dried over Na2SO4, and concentrated. The residue was purified by column chromatography to afford 1-(2-fluorophenyl)-prop -2-en-1-one (7.6 g, yield: 58.4° A)) as a colorless oil.

reactant | 2-fluoro-N-methoxy-N-methylbenzamide | 87.4 mmol, 16 g | FC1=C(C(=O)N(C)OC)C=CC=C1 | C9H10FNO2
reactant | Vinylmagnesium bromide | 120 mmol, 120 mL | C(=C)[Mg]Br
solvent | THF | 150 mL | C1CCOC1 | C4H8O
product | 1-(2-fluorophenyl)-prop -2-en-1-one | 7.6 g | FC1=C(C=CC=C1)C(C=C)=O | C9H7FO
